US07605269B2
To a solution of crude (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid ethyl ester (10.3 g, 41.2 mmol) in ethanol (200 mL) a solution of 2N aq. LiOH (300 mL) is added. The resulting mixture is stirred at 70° C. for 1 h, cooled to rt and diluted with water (250 mL). The aq. solution is extracted three times with DCM (125 mL) before it is acidified to pH 3 by adding citric acid. The acidified solution is extracted twice with DCM (2×250 mL). These second extracts are combined, dried over Na2SO4, filtered and evaporated to leave (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid (7.0 g) as a yellow solid. LC-MS: tR=0.95 min, [M+1]+=223.00. 1H NMR (CDCl3): δ3.04-2.92 (m, 1H), 2.83 (d, J=19.3 Hz, 1H), 2.39 (s, 3H), 1.91-1.87 (m, 2H), 1.13 (s, 3H), 0.73 (s, 3H).

reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid ethyl ester | 41.2 mmol, 10.3 g | C(C)OC(=O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C14H18O2S
reactant | LiOH | 2N, 300 mL | [Li+].[OH-]
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 250 mL | O | H2O
product | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid | 7.0 g | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(=O)O)C | C12H14O2S
